US08383644B2
(S)-2-({(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (152 mg) was taken in 3 mL anhydrous DCM and cooled 0° C., HCl (0.75 mL, 4N in dioxane) was added and stirred at room temperature for 1 hour. All volatiles are evaporated and the residue was suspended in a 2N Na2CO3 solution and then extracted with EtOAc. The ethyl acetate layer was separated and washed with brine, and then dried (Na2SO4). The solvent was evaporated (105 mg). LCMS (m/z): 753.

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 152 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O8
reactant | HCl | 4N, 0.75 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-({(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O6
